US03991045
In 2 ml of water was dissolved 300 mg (1.23 m-mols) of 1-β-D-arabinofuranosylcytosine (molecular weight 243) and after adding to the solution 30 ml of dioxane (molecular weight 88) and 1012 mg (2.47 m-mols) of tridecanoic anhydride (molecular weight 410), the mixture was heated to 80° C to dissolve the solid materials. After stirring the solution for 5 hours at 80° C, the reaction mixture was allowed to cool and the precipitates formed were collected by filtration, washed sufficiently with water, and dried. Then, the precipitates were added to n-hexane followed by refluxing. After cooling, the precipitates were collected by filtration and recrystallized from ethyl acetate to provide 531 mg (1.21 m-mols) of N4 -tridecanoyl-1-β-D-arabinofuranosylcytosine (molecular weight 439) at a yield of 98.4% with a melting point of 143° to 146° C.

reactant | 1-β-D-arabinofuranosylcytosine | 300 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | tridecanoic anhydride | 1012 mg | C(CCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCC)=O | C26H50O3
solvent | water | 2 ml | O | H2O
product | N4 -tridecanoyl-1-β-D-arabinofuranosylcytosine | 531 mg, yield of 98.4% | C(CCCCCCCCCCCC)(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C22H37N3O6
